US04840883
Synthesis of 2-benzamido-4-chloro-5-{2-(2,4-di-t-amylphenoxy)butanamido}phenol
In 100 of ethyl acetate was dissolved 15 g (57×10-3 mole) of 2-benzamido-4-chloro-5-aminophenol, and then 21 g of 2-(2,4-di-t-amylphenoxy)butanoic acid chloride and 5 g of pyridine were added thereto and the mixture was stirred at room temperature for 3 hours. After the reaction, a solvent was distilled off, and the residue was separated and purified through column chromatography and recrystallized from n-hexane to obtain the title compound. Yield: 14.1 g, FD-Mass: 564, melting point: 190° to 191° C.

reactant | 2-benzamido-4-chloro-5-aminophenol | 57×10-3 mole, 15 g | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C(=C1)Cl)N)O | C13H11ClN2O2
reactant | 2-(2,4-di-t-amylphenoxy)butanoic acid chloride | 21 g | C(C)(C)(CC)C1=C(OC(C(=O)Cl)CC)C=CC(=C1)C(C)(C)CC | C20H31ClO2
reactant | pyridine | 5 g | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzamido-4-chloro-5-{2-(2,4-di-t-amylphenoxy)butanamido}phenol | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C(=C1)Cl)NC(C(CC)OC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O)O | C33H41ClN2O4
